US07053212B2
Step A: (4-iodo-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amine
To a solution of 4-iodoaniline (11.80 g, 53.9 mmol) and 3-(tetrahydro-pyran-2-yloxy)-benzaldehyde (11.68 g, 56.6 mmol) in 100 mL methylene chloride was added magnesium sulfate (64.9 g, 539 mmol). The reaction mixture was stirred in darkness under nitrogen at room temperature overnight. The magnesium sulfate was filtered off and replaced each day for 3 days. On the fourth day, the reaction mixture was filtered and concentrated in vacuo. The resulting residue (16.45 g) was dissolved in 100 mL ethanol and 50 mL methanol and was treated with sodium borohydride (7.68 g, 202.1 mmol) which was added in portions. The reaction mixture was stirred at room temperature for 4.5 hr. at which time saturated aqueous sodium bicarbonate was added. The reaction mixture was extracted with methylene chloride and the organic layer was dried (magnesium sulfate), filtered, and concentrated. Medium pressure silica gel chromatography of the residue (10% methanol/methylene chloride) afforded 6.81 g (41%) of the title compound of Step A.

reactant | 4-iodoaniline | 53.9 mmol, 11.80 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | 3-(tetrahydro-pyran-2-yloxy)-benzaldehyde | 56.6 mmol, 11.68 g | O1C(CCCC1)OC=1C=C(C=O)C=CC1 | C12H14O3
reactant | magnesium sulfate | 539 mmol, 64.9 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 202.1 mmol, 7.68 g | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 50 mL | CO | CH4O
product | (4-iodo-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 6.81 g, 41% | IC1=CC=C(C=C1)NCC1=CC(=CC=C1)OC1OCCCC1 | C18H20INO2
